### ISSUE TITLE
`have` swaps goals

### ISSUE THREAD

**Issue by kmill** [leanprover/lean4#269]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

When using `have` when there are two goals, they get swapped.

### Steps to Reproduce

```lean
theorem haveWithSubgoals {a b : α} : a = b ↔ b = a := by {
    apply Iff.intro;
    intro h;
    have h' := h.symm;
    exact h';
    intro h; exact h.symm;
}
```

**Expected behavior:** The `exact h'` line uses `h'` to satisfy the first goal.

**Actual behavior:** An error results:
```
have_with_subgoal.lean:5:10: error: unknown identifier 'h''
```
Inspecting the context right after the `have` shows an `h'` binding but the `mp` and `mpr` goals are swapped.  Indeed, the following tactic proof is accepted:
```lean
theorem haveWithSubgoals {a b : α} : a = b ↔ b = a := by {
    apply Iff.intro;
    intro h;
    have h' := h.symm;
    intro h; exact h.symm;
    exact h';
}
```

### Versions

Lean (version 4.0.0-m1, commit 34cf4bc3ffc3, Release)

Lean (version 4.0.0-nightly-2021-01-15, commit 6a39c65bd28e, Release)

Lean (version 4.0.0, commit 0672247ce8d9, Release)
